US04814445
Mitomycin A.
A 100 mg (0.30 mmole) quantity of 7-hydroxy9a-methoxymitosane and 100 mg (0.67 mmole) quantity of 3-methyl-1-p-tolyltriazene was dissolved in 2 ml methylene chloride and 10 ml diethyl ether. The solution, after gently refluxing for 6 hours was stirred at room temperature for 18 hours. TLC [methylene chloride:methanol (90:10)] revealed the appearance of a deep purple spot at Rf =0.36 with a trace amount of impurity at Rf =0.41. The reaction mixture was concentrated to dryness and chromatographed on Woelm neutral alumina employing methylene chloride and methylene chloride:methanol (30:1) as eluting solvents. Fractions containing the component at Rf =0.36 were pooled and concentrated to dryness. Precipitation of the dry residue from methylene chloride and hexane afforded the title compound as a fine amorphous purple powder (25 mg, 24%), mp 161°.

reactant | 7-hydroxy9a-methoxymitosane | CC1=C(C2=C([C@H]([C@@]3(N2C[C@H]4[C@@H]3N4)OC)COC(=O)N)C(=O)C1=O)O | C15H17N3O6
reactant | 3-methyl-1-p-tolyltriazene | CNN=NC1=CC=C(C=C1)C | C8H11N3
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | Mitomycin A | 25 mg, 24% | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
